US04025630
4,4-Dimethyl-7-(4-fluorophenyl-1-methylbutyl)-9-[4-(piperidino)butyryloxy]-1,2,3,4-tetrahydrocyclopenta[c][1]benzopyran hydrochloride
5.0 g. (14.6 mmoles) of 4,4-dimethyl-9-hydroxy-7-(4-fluorophenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta [c][1]benzopyran, prepared according to the method of Example 50, 3.14 g. (15.2 mmoles) of dicyclohexylcarbodiimide and 3.15 g. (15.2 mmoles) of γ-piperidinobutyric acid hydrochloride (m.p. 190°-192° ), Cruickshank & Sheehan, J. Am. Chem. Soc. 83, 2891 (1961), are combined with 250 ml. of methylene chloride and stirred for a total of 40 hours at room temperature. The insoluble by-product of dicyclohexylurea is separated by filtration and the methylene chloride is removed using a rotary evaporator. The brown residue is treated with approximately 75 ml. of benzene, and filtered to remove a small amount of insoluble material. The benzene is evaporated and the viscous residue is triturated with about 200 ml. of ether to give the crude product. Recrystallization from benzene yields the desired product.

reactant | 4,4-dimethyl-9-hydroxy-7-(4-fluorophenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta [c][1]benzopyran | 14.6 mmoles | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)O)C | C25H29FO2
reactant | dicyclohexylcarbodiimide | 15.2 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | γ-piperidinobutyric acid hydrochloride | 15.2 mmoles | Cl.N1(CCCCC1)CCCC(=O)O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-7-(4-fluorophenyl-1-methylbutyl)-9-[4-(piperidino)butyryloxy]-1,2,3,4-tetrahydrocyclopenta[c][1]benzopyran hydrochloride | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)OC(CCCN2CCCCC2)=O)C | InChI=1S/C34H44FNO3.ClH/c1-5-18-34(4,24-14-16-26(35)17-15-24)25-22-29(38-31(37)13-10-21-36-19-7-6-8-20-36)32-27-11-9-12-28(27)33(2,3)39-30(32)23-25;/h14-17,22-23H,5-13,18-21H2,1-4H3;1H
